*-------------------------------------------------------------------------------
*
*
* 2-input XOR gate
* tpd 3n7,2n8,2n3,1n9
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G86 A B Y VCC VGND vcc1=3.3 speed1=1 tripdt1=100p
.param TD1 710p*(5/VCC1)**1.1*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
*
A1 Ai Bi 0 0 0 0 Yi 0 XOR tripdt={tripdt1} td={td1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ENDS 74LVC1G86

*-------------------------------------------------------------------------------
*
*
* Standard Picogate input has ~100mV of hysteresis
.subckt 74lvc_in IN OUT VCC VGND vcc3={vcc2} tripdt3={tripdt2}
.param Vh1 10m*(5/VCC3)
.model Desd D(Vfwd=0.65 Ron=10)
*
* I/P ESD structure
D1 VGND IN Desd
R1 IN INR 100
D2 VGND INR Desd
* No ESD diode to VCC because I/P is 5V tolerant at VCC<5V
*
* Input parasitics
C1 INR VGND 1p5
C2 VCC INR 1p5
*
* VCC to 1V translator
E1 DRV 0 INR VGND table(0,1 {VCC3/2},500m {VCC3},0)
*
* Output buffer with hysteresis
A1 DRV 0 0 0 0 OUT 0 0 SCHMITT Vt=0.5 Vh={Vh1} tripdt={tripdt3}
*
.ends 74lvc_in

*======================= OUTPUT LEVEL TRANSLATORS, DRIVERS =====================
*
*
* Standard output driver
* There is only one driver strength used in the Picogate series, rated at <B1>32mA/5V
.subckt 74lvc_out IN OUT VCC VGND vcc3={vcc2} speed3={speed2}
.model Desd D(Vfwd=0.65 Ron=10)
.model strSW SW(Ron={Ron} Roff=1G Vt={0.48*VCC3} Vh=-100m Ilimit={Ilimit} level=2)
.model wkSW SW(Ron={Ron*10} Roff=1G Vt=500m Vh=-210m Ilimit={Ilimit/10} level=2
*.param Ilimit 215m*(VCC-1.1)/(5-1.1)
.param Ilimit 215m*(3.3-1.1)/(5-1.1)
.param Ron 7.5*(5/3.3)**0.5
.param Cval 1p*Speed3
*
* 1V to VCC translator
E1 DRV VGND IN 0 table(0,{VCC3} 500m,{VCC3/2} 1,0)
*
* Speed control
R1 DRV DRVF 250
C3 DRVF VGND {Cval}
*
* Output driver
S1 VGND OUT DRVF VGND strSW
S2 OUT VCC VCC DRVF strSW
S3 VGND OUT DRVF VGND wkSW
S4 OUT VCC VCC DRVF wkSW
C1 VCC OUT 5p
C2 OUT VGND 5p
*
* ESD structure
D1 OUT VCC Desd
D2 VGND OUT Desd
*
.ends 74lvc_out


