*-------------------------------------------------------------------------------
*
*
* Unbuffered inverter
* tpd 1n7,1n7,1n6n,1n3
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1GU04 A Y VCC VGND vcc1=3.3 speed1=1
*
XOUT A Y VCC VGND 74LVC_UNBUF vcc2={vcc1} speed2={speed1}
*
.ENDS 74LVC1GU04


*-------------------------------------------------------------------------------*
*
* Unbuffered driver
* There is only one driver strength used in the Picogate series, rated at ±32mA/5V
.subckt 74lvc_unbuf IN OUT VCC VGND vcc3={vcc2} speed3={speed2}
.model Desd D(Vfwd=0.65 Ron=10)
.model strSW SW(Ron={Ron} Roff=1G Vt={0.48*VCC3} Vh=-100m Ilimit={Ilimit} level=2)
.model wkSW SW(Ron={Ron*10} Roff=1G Vt=500m Vh=-210m Ilimit={Ilimit/10} level=2
.model triSW SW(Ron=10 Roff=1G Vt=500m Vh=-10m)
.param Ilimit 215m*(VCC3-1.1)/(5-1.1)
.param Ron 7.5*(5/VCC3)**0.5
.param Cval 0p5*Speed3
*
* I/P ESD structure
D3 VGND IN Desd
R2 IN INR 100
D4 VGND INR Desd
* No ESD diode to VCC because I/P is 5V tolerant at VCC<5V
*
* Input parasitics
C4 INR VGND 3p
C5 VCC INR 3p
*
* VCC to VCC buffer
E1 DRV VGND INR 0 1
*
* Speed control
R1 DRV DRVD 250
C3 DRVD VGND {Cval}
*
* Output driver
S1 VGND OUT DRVD VGND strSW
S2 OUT VCC VCC DRVD strSW
S3 VGND OUT DRVD VGND wkSW
S4 OUT VCC VCC DRVD wkSW
C1 VCC OUT 5p
C2 OUT VGND 5p
*
* ESD structure
D1 OUT VCC Desd
D2 VGND OUT Desd
*
.ends 74lvc_unbuf

